US09120805B2
4-Fluoro-1-(2-oxo-2-{4-[1-(2,2,2-trifluoro-acetyl)-piperidin-4-yl]-phenyl}-ethyl)-1H-pyrrole-2-carboxylic acid ethyl ester (1.57 g; 3.42 mmol) is dissolved in acetic acid (10 ml) and ammonium acetate (5.80 g; 75.25 mmol) is added. The reaction mixture is stirred at 110° C. overnight. The reaction mixture is allowed to cool to room temperature, poured into cold water (250 ml) and extracted with ethyl acetate. The organic layers are discarded. The aqueous layer is basified with 2N NaOH (pH11). A precipitate forms. The solid is filtered off by suction, washed with water and a small amount of ethyl acetate. Then the solid is dissolved in 150 ml ethyl acetate, dried over Na2SO4, filtered off by suction and evaporated to dryness. The residue is triturated with diethylether, filtered off and dried under vacuum at 50° C. (overnight). The aqueous filtrate is extracted 3 times with ethyl acetate/MeOH (5%). The combined organic layers are washed with brine, dried over Na2SO4, filtered off and evaporated to dryness. The residue is triturated with diethylether, filtered off by suction and dried under vacuum to afford 7-fluoro-3-(4-piperidin-4-yl-phenyl)-2H-pyrrolo[1,2-a]pyrazin-1-one as beige solid; HPLC/MS 1.37 min (A), [M+H] 312;

reactant | 4-Fluoro-1-(2-oxo-2-{4-[1-(2,2,2-trifluoro-acetyl)-piperidin-4-yl]-phenyl}-ethyl)-1H-pyrrole-2-carboxylic acid ethyl ester | 3.42 mmol, 1.57 g | C(C)OC(=O)C=1N(C=C(C1)F)CC(C1=CC=C(C=C1)C1CCN(CC1)C(C(F)(F)F)=O)=O | C22H22F4N2O4
reactant | ammonium acetate | 75.25 mmol, 5.80 g | C(C)(=O)[O-].[NH4+]
reactant | water | 250 ml | O | H2O
solvent | acetic acid | 10 ml | C(C)(=O)O | C2H4O2
product | 7-fluoro-3-(4-piperidin-4-yl-phenyl)-2H-pyrrolo[1,2-a]pyrazin-1-one | FC=1C=C2N(C=C(NC2=O)C2=CC=C(C=C2)C2CCNCC2)C1 | C18H18FN3O
